US05025008
3-Bromo-6-(t-butyldimethylsilyloxy)-dibenzofuran (38)
To a solution of 3-bromo-6-hydroxydibenzofuran (309 mg, 1.17 mmol) in 8 ml THF at room temperature were added triethylamine (0.23 ml, 1.6 mmol), 4-dimethylaminopyridine (14 mg, 0.12 mmol) and t-butyldimethylsilyl chloride (229 mg, 1.5 mmol). The mixture was stirred at room temperature overnight and then diluted into ethyl acetate and washed successfully with NH4Cl (sat.), H2O, and brine. Drying (MgSO4) and evaporation gave 421 mg of brown solid which was purified by flash chromatography through 40 g silica gel (10% EtOAc/hexane) to yield 388 mg (87%) of the title compound.

reactant | 3-bromo-6-hydroxydibenzofuran | 1.17 mmol, 309 mg | BrC=1C=CC2=C(OC3=C2C=CC=C3O)C1 | C12H7BrO2
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 1.5 mmol, 229 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.12 mmol, 14 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Bromo-6-(t-butyldimethylsilyloxy)-dibenzofuran | 421 mg | BrC=1C=CC2=C(OC3=C2C=CC=C3O[Si](C)(C)C(C)(C)C)C1 | C18H21BrO2Si
